US08242124B2
Preparation of 2,6-naphthyridin-1 (2H)-one
To a suspension of (E)-3-(2-(dimethylamino)vinyl)isonicotinonitrile (5 g, 28.9 mmol) in ethanol (50 mL) was added 49 mL of HBr (48% in water) dropwise over 20 minutes. The mixture was heated to reflux overnight for 19 h, and cooled to rt. Upon cooling, fine yellow crystals started to form. The mixture was cooled in the refrigerator for 1.5 h. The crystals were collected by filtration and were washed with ether. To the yellow solid was carefully added sat. aq. NaHCO3 until gas evolution ceased. The off-white solid that formed was collected by filtration and was washed with water to give 1.83 g of the expected product. The mother liquors from both filtrations were combined and were concentrated under reduced pressure. The residue was neutralized with sat. aq. NaHCO3, and the solvent removed under reduced pressure. The residue was diluted with 300 mL of dichloromethane and 300 mL of MeOH, and the mixture was warmed to reflux with a heat gun. The solids were removed by filtration, and the organic solution was concentrated under reduced pressure. The residue was purified by BIOTAGE® flash chromatography using a 0-6.5% MeOH in dichloromethane gradient. The expected product, was isolated as an off-white solid (0.96 g) and the two lots were combined to yield 2,6-naphthyridin-1(2H)-one (2.79 g, 19.1 mmol, 66% yield). LC/MS: m/z 147.04 (M+H)+, 1.407 min (method 1). 1H NMR (500 MHz, DMSO-d6) δ ppm 11.63 (br. s., 1H) 9.07 (s, 1H) 8.62 (d, J=5.49 Hz, 1H) 7.98 (d, J=5.49 Hz, 1H) 7.33 (d, J=7.02 Hz, 1H) 6.67 (d, J=7.02 Hz, 1H).

reactant | (E)-3-(2-(dimethylamino)vinyl)isonicotinonitrile | 28.9 mmol, 5 g | CN(/C=C/C1=C(C#N)C=CN=C1)C | C10H11N3
reactant | HBr | 49 mL | Br | BrH
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 2,6-naphthyridin-1 (2H)-one | 1.83 g | C1(NC=CC2=CN=CC=C12)=O | C8H6N2O
